US04382972
Ethyl 3-oxopentanoate (72 g, 0.5 mol) is added dropwise in a nitrogen atmosphere to a suspension of sodium hydride (0.52 mol) in 300 ml of 1:1 anhydrous ether-tetrahydrofuran. After one hour, a solution of iodine (63.5 g, 0.25 mol) in tetrahydrofuran (150 ml) is added and the resulting mixture stirred at ambient temperature for an additional one hour. Water (250 ml) is added and the phases separated. The ether solution is washed with two 50 ml portions of sodium sulfite and dried over sodium sulfate. Removal of the solvent affords 66 g (91%) of diethyl α,β-dipropionylsuccinate. Recrystallization from hexane gives 29 g of solid dimer, mp 80-83 C; IR (CHCl3) 1755, 1730 cm-1 ; NMR (CDCl3) 1.1 (t,6H), 1.3 (t,6H), 2.83 (d of q,4H), 4.18 (q,4H), 4.5 (s,2H).

reactant | Ethyl 3-oxopentanoate | 0.5 mol, 72 g | O=C(CC(=O)OCC)CC | C7H12O3
reactant | sodium hydride | 0.52 mol | [H-].[Na+]
reactant | iodine | 0.25 mol, 63.5 g | II | I2
reactant | Water | 250 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | diethyl α,β-dipropionylsuccinate | 66 g, 91% | C(CC)(=O)C(C(=O)OCC)C(C(=O)OCC)C(CC)=O | C14H22O6
